US04894451
1-(4-aminobutylamino)-4-methoxyanthracene-9,10-dione
1,4-Diaminobutane (1.65 g, 19 mmol) was added to a solution of 1,4-dimethoxyanthracene-9,10-dione (1.0 g, 3.7 mmol) in CH2Cl2 (700 ml). After seven, hours of irradiation, the solvent was removed and the residue chromatographed on silica gel. Starting material was eluted with CHCl3 and the product with 5% CH3OH in CHCl3. A purple solid (0.61 g, 50%) was obtained which was converted to the benzyloxycarbonyl derivative.

reactant | 1,4-Diaminobutane | 19 mmol, 1.65 g | NCCCCN | C4H12N2
reactant | 1,4-dimethoxyanthracene-9,10-dione | 3.7 mmol, 1.0 g | COC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)OC | C16H12O4
solvent | CH2Cl2 | 700 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-aminobutylamino)-4-methoxyanthracene-9,10-dione | 0.61 g, 50% | NCCCCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)OC | C19H20N2O3
